US07287646B2
Ethyl 5-amino-4-oxopentanoate Hydrochloride
From ethanol (6.0 ml) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 2 h. The yield was 1.0 g (85%).

reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
reactant | ethanol | 6.0 ml | C(C)O | C2H6O
product | Ethyl 5-amino-4-oxopentanoate Hydrochloride | Cl.NCC(CCC(=O)OCC)=O | InChI=1S/C7H13NO3.ClH/c1-2-11-7(10)4-3-6(9)5-8;/h2-5,8H2,1H3;1H
